US05436247
To a mixture of 2-amino-4,5,3',4'-tetramethoxybenzophenone (6.3 g) and cyanoacetic acid methyl ester (23 ml), powdered aluminum chloride (5.3 g) was added, followed by stirring at 100° C. for 2.5 hours. The reaction mixture was poured over water and extracted with ethyl acetate. The ethyl acetate layer was washed with water and dried (MgSO4), after which the solvent was distilled off. The residue was subjected to silica gel column chromatography and eluted with hexane-ethyl acetate (4:1, v/v) to yield 6,7-dimethoxy-4-(3,4-dimethoxyphenyl)quinazoline-2-acetic acid methyl ester (4.4 g, 55%), which was then recrystallized from isopropyl ether to yield a colorless needle crystal having a melting point of 152° to 153° C.

reactant | 2-amino-4,5,3',4'-tetramethoxybenzophenone | 6.3 g | NC1=C(C(=O)C2=CC(=C(C=C2)OC)OC)C=C(C(=C1)OC)OC | C17H19NO5
reactant | cyanoacetic acid methyl ester | 23 ml | COC(CC#N)=O | C4H5NO2
reactant | aluminum chloride | 5.3 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | water | O | H2O
product | 6,7-dimethoxy-4-(3,4-dimethoxyphenyl)quinazoline-2-acetic acid methyl ester | 4.4 g, 55% | COC(CC1=NC2=CC(=C(C=C2C(=N1)C1=CC(=C(C=C1)OC)OC)OC)OC)=O | C21H22N2O6
